US07470710B2
Description 58: (RS)-4-Fluoro-2-piperidin-2-ylmethyl-1H-benzoimidazole
(RS)-2-Carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester (1.93 g) was heated with 1,2-diamino-3-fluorobenzene (1.00 g) (Kirk, K. L, J. Org. Chem., 1969, 34, 384) as described in Description 18 to afford the title compound (1.14 g).

reactant | (RS)-2-Carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.93 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 1,2-diamino-3-fluorobenzene | 1.00 g | NC1=C(C(=CC=C1)F)N | C6H7FN2
product | (RS)-4-Fluoro-2-piperidin-2-ylmethyl-1H-benzoimidazole | 1.14 g | FC1=CC=CC=2NC(=NC21)CC2NCCCC2 | C13H16FN3
